US04053606
Step H: Preparation of 2-formyl-5-chloromethylpyridine hydrochloride
2-Formyl-5-hydroxymethylpyridine (0.1 mole) in 100 ml. of tetrahydrofuran is treated with 0.11 mole of thionyl chloride, and the mixture is refluxed 3 hours. The product, 2-formyl-5-chloromethylpyridine hydrochloride, is collected by filtration from the cooled reaction mixture.

reactant | 2-Formyl-5-hydroxymethylpyridine | 0.1 mole | C(=O)C1=NC=C(C=C1)CO | C7H7NO2
reactant | thionyl chloride | 0.11 mole | S(=O)(Cl)Cl | Cl2OS
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-formyl-5-chloromethylpyridine hydrochloride | Cl.C(=O)C1=NC=C(C=C1)CCl | InChI=1S/C7H6ClNO.ClH/c8-3-6-1-2-7(5-10)9-4-6;/h1-2,4-5H,3H2;1H
